US07452892B2
Preparation of 7,8-bis(4-chlorophenyl)-5-methyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one
The title compound was prepared by coupling 7,8-bis(4-chlorophenyl)-5-methyl-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one with 5-(chloromethyl)-2-(trifluoromethyl)pyridine in a manner analogous to that in which 7,8-bis(4-chlorophenyl)-5-methyl-2-(4-(trifluoromethyl)benzyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one was prepared. HPLC/MS: retention time=4.188 min, [M+H]30 =530.

reactant | 7,8-bis(4-chlorophenyl)-5-methyl-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C(=N1)C)C(NN2)=O)C2=CC=C(C=C2)Cl | C18H12Cl2N4O
reactant | 5-(chloromethyl)-2-(trifluoromethyl)pyridine | ClCC=1C=CC(=NC1)C(F)(F)F | C7H5ClF3N
reactant | 7,8-bis(4-chlorophenyl)-5-methyl-2-(4-(trifluoromethyl)benzyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C(=N1)C)C(N(N2)CC2=CC=C(C=C2)C(F)(F)F)=O)C2=CC=C(C=C2)Cl | C26H17Cl2F3N4O
product | 7,8-bis(4-chlorophenyl)-5-methyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C(=N1)C)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O)C2=CC=C(C=C2)Cl | C25H16Cl2F3N5O
